US07598399B2
Methylamine hydrochloride (2.04 kg) was added, and the reactor contents were stirred at 22 degrees C. overnight. A 10 mL aliquot of the reactor contents was taken, from which HPLC indicated completion (<1% of (S)-1-Imidazol-1-yl-3-(4-methoxy-1H-indol-3-yl)-3-phenyl-propan-1-one) of the reaction. Cold tap water (64 L) was added, followed by isopropyl alcohol (8.2 kg). The reactor was set up for atmospheric distillation, and the reactor jacket was heated at 85 degrees C. and methylene chloride was removed by distillation until the reactor temperature reached 70 degrees C. The reactor was gradually cooled to 22 degrees C. and the resulting slurry was stirred for one hour. The product was filtered on a Nutsche filter, and the collected solid was washed with water-isopropyl alcohol (1:1) and dried at 70 degrees C. to afford (S)-3-(4-methoxy-1H-indol-3-yl)-N-methyl-3-phenyl-propionamide as an off-white crystalline solid, (7.094 kg, 98% yield). 1H nmr (DMSO-d6): 2.48 (d, 3H, J=4.56 Hz), 2.60-2.90 (m, 2H), 3.69 (s, 3H), 5.05 (t, 1H, J=7.95 Hz), 6.34 (m, 1H), 6.90 (m, 2H), 7.08 (m, 2H), 7.20 (m, 4H), 7.75 (bq, 1H, J=4.56 Hz), 10.8 (bs, 1H). Mp=178-181° C.

reactant | Methylamine hydrochloride | 2.04 kg | Cl.CN
reactant | (S)-1-Imidazol-1-yl-3-(4-methoxy-1H-indol-3-yl)-3-phenyl-propan-1-one | N1(C=NC=C1)C(C[C@@H](C1=CC=CC=C1)C1=CNC2=CC=CC(=C12)OC)=O | C21H19N3O2
reactant | water | 64 L | O | H2O
solvent | isopropyl alcohol | 8.2 kg | C(C)(C)O | C3H8O
product | (S)-3-(4-methoxy-1H-indol-3-yl)-N-methyl-3-phenyl-propionamide | 98% yield | COC1=C2C(=CNC2=CC=C1)[C@@H](CC(=O)NC)C1=CC=CC=C1 | C19H20N2O2
